US08349880B2
Step R (2): 10% Palladium on carbon (0.890 g, 0.830 mmol) was added under an atmosphere of nitrogen to a chilled (ice-water bath) solution of 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole (2.00 g, 8.33 mmol dissolved in methanol (200 mL). The flask was repeatedly evacuated and flushed with hydrogen gas (double balloon). The resulting mixture was allowed to warm to rt and left to stir for 18 h under the hydrogen atmosphere. The vessel was subsequently purged with nitrogen gas. The crude reaction mixture was filtered through a short plug of diatomaceous earth (Celite®). The reaction vessel and Celite® were rinsed with fresh methanol. The combined filtrates were concentrated in vacuo. The residue was dried under high vacuum to afford 3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline (1.76 g, 8.37 mmol, quantitative yield) as a blackish/gray solid. LC-MS (M+H)+ 211.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.10 (1 H, s), 6.25-6.36 (2 H, m), 4.17 (2 H, br. s.), 2.49 (3 H, s).

reactant | 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1N=C(N=C1)C | C9H6F2N4O2
catalyst | Palladium on carbon | 0.830 mmol, 0.890 g | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline | 8.37 mmol, 1.76 g, quantitative yield | FC=1C=C(N)C=C(C1N1N=C(N=C1)C)F | C9H8F2N4
